US07786132B2
3-{4-(5-Chlorothiophen-2-yl)-2-[2-(5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)ethylamino]pyrimidin-5-yl}-N-methylbenzamide
The title compound was prepared from 1-{2-[5-bromo-4-(5-chlorothiophen-2-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethylimidazolidine-2,4-dione and 3-(methyl-carbamoyl)phenylboronic acid in a manner analogous to Example 269. MS (M+H)+ 499.

reactant | 1-{2-[5-bromo-4-(5-chlorothiophen-2-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethylimidazolidine-2,4-dione | BrC=1C(=NC(=NC1)NCCN1C(NC(C1(C)C)=O)=O)C=1SC(=CC1)Cl | C15H15BrClN5O2S
reactant | 3-(methyl-carbamoyl)phenylboronic acid | CNC(=O)C=1C=C(C=CC1)B(O)O | C8H10BNO3
product | 3-{4-(5-Chlorothiophen-2-yl)-2-[2-(5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)ethylamino]pyrimidin-5-yl}-N-methylbenzamide | ClC1=CC=C(S1)C1=NC(=NC=C1C=1C=C(C(=O)NC)C=CC1)NCCN1C(NC(C1(C)C)=O)=O | C23H23ClN6O3S
